US07553854B2
To a solution of (S)-tert-butyl 3-(6-methoxybenzo[d]thiazol-2-ylamino)piperidine-1-carboxylate (3.35 g, 9.22 mmol) in methanol/dioxane (3 ml/3 ml) was added slowly 4M HCl in dioxane (60 ml, 240 mmol) [Caution: gas development!]. The reaction mixture was stirred 2.5 hours at ambient temperature and concentrated in vacuo in order to remove methanol and half of dioaxane. The residue was suspended in diethylether (50 ml). The solids were filtered off, washed with diethylether (50 ml) and dried in vacuo to give (S)-6-methoxy-N-(piperidin-3-yl)benzo[d]thiazol-2-amine as its hydrochloride salt as white solid. Yield: 4.29 g. ES/MS m/z 264.1 (MH+), Rt=1.62 min.

reactant | (S)-tert-butyl 3-(6-methoxybenzo[d]thiazol-2-ylamino)piperidine-1-carboxylate | 9.22 mmol, 3.35 g | COC1=CC2=C(N=C(S2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C1 | C18H25N3O3S
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 240 mmol, 60 ml | O1CCOCC1 | C4H8O2
solvent | methanol dioxane | 3 ml | CO.O1CCOCC1
product | (S)-6-methoxy-N-(piperidin-3-yl)benzo[d]thiazol-2-amine | COC1=CC2=C(N=C(S2)N[C@@H]2CNCCC2)C=C1 | C13H17N3OS
